US04249932
Preparation of 2,2-dimethyl-N-trichloroacetyl-5-phenoxymethyl oxazolidine
To 24.8 milliliters of 25 percent w/v, 2,2-dimethyl-5-phenoxymethyl oxazolidine in 50 milliliters of benzene was added 5.5 grams of trichloroacetyl chloride. To this solution was added dropwise with cooling 3.1 grams of trimethylamine. After work-up with water, drying and removal of the benzene in vacuo, there was obtained 8.1 grams of the title compound, nD30 1.5272. Analytical data supports the structure.

reactant | 2,2-dimethyl-5-phenoxymethyl oxazolidine | CC1(OC(CN1)COC1=CC=CC=C1)C | C12H17NO2
reactant | trichloroacetyl chloride | 5.5 grams | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | trimethylamine | 3.1 grams | CN(C)C | C3H9N
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-N-trichloroacetyl-5-phenoxymethyl oxazolidine | 8.1 grams | CC1(OC(CN1C(C(Cl)(Cl)Cl)=O)COC1=CC=CC=C1)C | C14H16Cl3NO3
